US04564630
3-Trifluoromethyl-4'-(N-butyl-carbamyloxy)-α-ethyl-benzhydrol
8.9 g. of 3-trifluoromethyl-4'-hydroxy-α-ethyl-benzhydrol, 3.3 g. of n-butyl-isocyanate and 0.06 ml. of triethyl amine in 45 ml. of dry benzene are heated up to 50° C. under stirring, and the reaction mixture is kept at the same temperature for one additional hour. The progress of the reaction is monitored by thin layer chromatography. When the reaction is complete, the mixture is cooled to room temperature, the benzene solution is shaken with a 5% aqueous potassium hydroxide solution and washed to neutral with water. The organic phase is dried over anhydrous magnesium sulfate, filtered, and the solvent is distilled off under reduced pressure. The solid residue is crystallized from a mixture of ethyl acetate and n-hexane. 11.4 g. of the named compound are obtained, melting at 99° to 100° C.

reactant | 3-trifluoromethyl-4'-hydroxy-α-ethyl-benzhydrol | FC(C=1C=C(C(C2=CC=C(C=C2)O)(O)CC)C=CC1)(F)F | C16H15F3O2
reactant | n-butyl-isocyanate | C(CCC)N=C=O | C5H9NO
reactant | triethyl amine | C(C)N(CC)CC | C6H15N
reactant | potassium hydroxide | [OH-].[K+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-Trifluoromethyl-4'-(N-butyl-carbamyloxy)-α-ethyl-benzhydrol | FC(C=1C=C(C(C2=CC=C(C=C2)OC(NCCCC)=O)(O)CC)C=CC1)(F)F | C21H24F3NO3
